US05821239
4-[[(N-cyclohexyl-N-methylamino)methylene]amino]-3-pyridinol
A mixture of 4-[[(dimethylamino)methylene]amino]-3-pyridinol (5.00 g), N-methylcyclohexylamine (5.20 g), and anhydrous toluene (50 mL) was heated at reflux under nitrogen for 17 hours. The solution was concentrated under reduced pressure and the crude product chromatographed on silica gel (10% methanol in dichloromethane) to afford 5.92 g of solid. Recrystallization from ethyl acetate/hexanes afforded 4.90 g of crystalline material, m.p. 127°-129° C.

reactant | 4-[[(dimethylamino)methylene]amino]-3-pyridinol | 5.00 g | CN(C)C=NC1=C(C=NC=C1)O | C8H11N3O
reactant | N-methylcyclohexylamine | 5.20 g | CNC1CCCCC1 | C7H15N
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | 4-[[(N-cyclohexyl-N-methylamino)methylene]amino]-3-pyridinol | 5.92 g | C1(CCCCC1)N(C)C=NC1=C(C=NC=C1)O | C13H19N3O
